US07592345B2
e) step 5: 2-(3,4-Dichloro-phenyl)-4-(4-methanesulfonyl-piperazin-1-yl)-2-methyl-butyric acid
A mixture of 1.15 g (2.7 mmol) 2-(3,4-dichloro-phenyl)-4-(4-methanesulfonyl-piperazin-1-yl)-2-methyl-butyric acid methyl ester and 0.171 g (4.08 mmol) LiOH.H2O in 25 mL water and 25 mL THF was stirred at room temperature for 16 h. The mixture was treated with 4N HCl aq. and evaporated to dryness. The residue was used without further purification in the subsequent step. MS(m/e): 409.2 (MH+).

reactant | 2-(3,4-dichloro-phenyl)-4-(4-methanesulfonyl-piperazin-1-yl)-2-methyl-butyric acid methyl ester | 2.7 mmol, 1.15 g | COC(C(CCN1CCN(CC1)S(=O)(=O)C)(C)C1=CC(=C(C=C1)Cl)Cl)=O | C17H24Cl2N2O4S
reactant | LiOH.H2O | 4.08 mmol, 0.171 g | O[Li].O
reactant | HCl | 4N | Cl | ClH
solvent | water | 25 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-(3,4-Dichloro-phenyl)-4-(4-methanesulfonyl-piperazin-1-yl)-2-methyl-butyric acid | ClC=1C=C(C=CC1Cl)C(C(=O)O)(CCN1CCN(CC1)S(=O)(=O)C)C | C16H22Cl2N2O4S
